US06824709B2
Oxygen was blown into a solution comprising 4-(2-(2-pentyloxyfluorene-7-yl)ethyl)phenyl acetate (4.2 g), powdery potassium hydroxide (1.0 g) and 2-butanone (80 mL) for one hour while refluxing by heating, and the solution was further stirred at a room temperature for one hour. A hydrochloric acid aqueous solution was added thereto, and then the product was extracted with chloroform to dry the chloroform layer on anhydrous magnesium sulfate. A residue obtained by distilling the solvent off from this organic layer was purified by means of column chromatography (silica gel, eluting solvent: toluene) to obtain 4-(2-(2-pentyloxyfluorenone-7-yl)ethyl)phenyl acetate (2.3 g).

reactant | Oxygen | O=O | O2
reactant | 4-(2-(2-pentyloxyfluorene-7-yl)ethyl)phenyl acetate | 4.2 g | C(C)(=O)OC1=CC=C(C=C1)CCC1=CC=C2C=3C=CC(=CC3CC2=C1)OCCCCC | C28H30O3
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | 2-butanone | 80 mL | CC(CC)=O | C4H8O
product | 4-(2-(2-pentyloxyfluorenone-7-yl)ethyl)phenyl acetate | 2.3 g | C(C)(=O)OC1=CC=C(C=C1)CCC1=CC=C2C3=CC=C(C(C3=CC2=C1)=O)OCCCCC | C28H28O4
